US05191015
Preparation of 2,2-di-(2-aminoethoxy)propane
2,2-Di-(2-phthalimidoethoxy)propane (46.2 gm, 0.11 mole), sodium hydroxide (43.7 gm, 1.10 mole) and 100 mL of H2O were combined and refluxed for 20 hours. After cooling this solution was extracted with p-dioxane in a liquid-liquid extractor for 20 hours. The p-dioxane was removed by rotary evaporation to give a yellow oil. The oil was distilled under reduced pressure yielding 12.5 gm of a clear colourless oil: 0.077 mole, 71%. bp 107°-110° C./0.18 mm Hg. NMR δ(CDCl3)3.41(tr, 4 H, J=6 Hz, CH2O), 2.78(tr, 4 H, J=6 Hz, NCH2), 1.33 (s, 6 H, geminal (CH3)2), 1.20(s, 4 H, NH2).

reactant | 2,2-Di-(2-phthalimidoethoxy)propane | 0.11 mole, 46.2 gm | C1(C=2C(C(N1CCOC(C)(C)OCCN1C(C=3C(C1=O)=CC=CC3)=O)=O)=CC=CC2)=O | C23H22N2O6
reactant | sodium hydroxide | 1.10 mole, 43.7 gm | [OH-].[Na+]
solvent | H2O | 100 mL | O | H2O
product | 2,2-di-(2-aminoethoxy)propane | 12.5 gm | NCCOC(C)(C)OCCN | C7H18N2O2
